US04242510
Ethyl 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetate (mixture of syn isomer and anti isomer, 186.8 g.), 1 N aqueous solution of sodium hydroxide (472 ml.) and methanol (1.8 l.) were stirred at room temperature for 35 minutes and the insoluble substance was removed by filtration. The filtrate was stirred at room temperature for 43 hours and treated in a similar manner to that of Exampl I-(iii) to give 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetic acid (syn isomer, 43 g.)

reactant | Ethyl 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetate | 186.8 g | O1CCSC=C1C(C(=O)OCC)=NOCCCCCC | C14H23NO4S
reactant | sodium hydroxide | 472 ml | [OH-].[Na+]
solvent | methanol | 1.8 l | CO | CH4O
product | 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetic acid | 43 g | O1CCSC=C1C(C(=O)O)=NOCCCCCC | C12H19NO4S
